US04950738
FMOC-Tyr-Gly-Gly
FMOC-Tyr-gly-gly was coupled to ADR as in Section 7.1.1. for gly-ADR. Yield of FMOC-tyr-gly-gly-ADR was 95%; melting point 150°-153° C.; Rf: 0.63 [chloroform/methanol 8:2 (silica); Rf: 0.68 [acetonitrile/0.1% aqueous TFA 1:1 (reverse phase)]. Elemental analysis for C55H54N4O17H2O; calculated: C,62.25; H, 5.32; N, 5.30; observed: C, 62.17; H, 5.92; N, 5.09. The protecting FMOC moiety removed from the product as described in Section 7.1.1. for gly-ADR. Yield of the product tyr-gly-gly-ADR.HOAc was 68 mg (80%); melting point, 165.C (dec.); Rf: 0.10 [chloroform/methanol 8:2 (silica)]; Rf: 0.53 [acetonitrile 0.1% aqueous TFA 1:1 (reverse phase)]. Elemental analysis for C42H48N4O17.2H2O; calculated: C, 55.01; H, 5.72; observed: C, 55.15; H, 5.54.

reactant | FMOC-Tyr gly-gly | N([C@@H](CC1=CC=C(C=C1)O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12.C(C(=O)NCC(=O)O)N
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | acetonitrile | C(C)#N | C2H3N
product | FMOC-Tyr-Gly-Gly | N([C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)NCC(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C28H27N3O7
